US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(4-dimethylaminophenyl)methyl](4-propylphenyl)amine (0.80 g) and 2,6-diisopropylphenyl isocyanate (0.72 g) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-propylphenyl)urea (0.51 g) was obtained.

reactant | [(4-dimethylaminophenyl)methyl](4-propylphenyl)amine | 0.80 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)CCC)C | C18H24N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.72 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-propylphenyl)urea | 0.51 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)CCC)CC1=CC=C(C=C1)N(C)C)=O | C31H41N3O
